US07449486B2
Step A: Preparation of 2-(methoxymethoxy)-1-phenylethanone:
To a cooled (0° C.) solution of 2-hydroxyacetophenone (1.0 g, 7.3 mmol) in DMF (50 mL) was added lithium hydride (74 mg, 95%, 8.8 mmol). After stirring for 30 minutes, MOM-Cl (0.73 mL, 9.5 mmol) was added slowly via syringe and the mixture was allowed to warm slowly to room temperature and was stirred for 16 hours. The reaction mixture was treated with saturated NH4Cl (100 mL) and extracted with ethyl acetate (3×50 mL). The combined organics were washed with water (6×50 mL) and brine (50 mL), dried over Na2SO4 and concentrated under reduced pressure. The brown residue was chromatographed (9:1 to 4:1 hexanes/ethyl acetate) to provide the product as a colorless oil (0.60 g, 45%).

reactant | 2-hydroxyacetophenone | 7.3 mmol, 1.0 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | lithium hydride | 8.8 mmol, 74 mg | [H-].[Li+]
reactant | MOM-Cl | 9.5 mmol, 0.73 mL | C(OC)Cl | C2H5ClO
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-(methoxymethoxy)-1-phenylethanone | 0.60 g, 45% | COCOCC(=O)C1=CC=CC=C1 | C10H12O3
